US06034275
from 2,4-difluorobenzoyl chloride and 2,5-difluoroanisole via (2,4-difluoro-phenyl)-(2,5-difluoro-4-methoxy-phenyl)-methanone, which is deprotected with hydrogen bromide and reacted with (E)-1,4-dibromo-2-butene and N-allyl-methyl-amine, there is obtained (E)-[4-[4-(allyl-methyl-amino)-but-2-enyloxy]-2,5-difluoro-phenyl]-(2,4-difluoro-phenyl)-methanone.hydrochloride (1:1), m.p. 141° C.,

reactant | 2,4-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | 2,5-difluoroanisole | FC1=C(C=C(C=C1)F)OC | C7H6F2O
reactant | (2,4-difluoro-phenyl)-(2,5-difluoro-4-methoxy-phenyl)-methanone | FC1=C(C=CC(=C1)F)C(=O)C1=C(C=C(C(=C1)F)OC)F | C14H8F4O2
reactant | hydrogen bromide | Br | BrH
reactant | (E)-1,4-dibromo-2-butene | BrC\C=C\CBr | C4H6Br2
reactant | N-allyl-methyl-amine | C(C=C)NC | C4H9N
product | (E)-[4-[4-(allyl-methyl-amino)-but-2-enyloxy]-2,5-difluoro-phenyl]-(2,4-difluoro-phenyl)-methanone.hydrochloride | Cl.C(C=C)N(C/C=C/COC1=CC(=C(C=C1F)C(=O)C1=C(C=C(C=C1)F)F)F)C | InChI=1S/C21H19F4NO2.ClH/c1-3-8-26(2)9-4-5-10-28-20-13-18(24)16(12-19(20)25)21(27)15-7-6-14(22)11-17(15)23;/h3-7,11-13H,1,8-10H2,2H3;1H/b5-4+;
